US05877174
A mixture of 2.3 g of diphenylmethyl 3-[4-[3-(4-tert-butoxycarbonylamidinophenoxy) propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate, 18.5 ml of anisole and 37 ml of trifluoroacetic acid was stirred at room temperature for 3 hours and then distilled under reduced pressure to remove the solvent. The resulting residue was suspended in a mixed solvent of 15 ml of ethyl acetate and 13 ml of water, followed by adding thereto 0.55 g of sodium hydrogencarbonate, and the resulting mixture was stirred at room temperature for 30 minutes. The aqueous layer was separated, adjusted to pH 3.5 with a saturated aqueous sodium hydrogencarbonate solution, and then concentrated to a volume of about 10 ml under reduced pressure. The resulting concentrate was purified by a reversed phase column chromatography (eluent: 25% aqueous acetonitrile solution) to obtain 0.82 g of 3-[4-[3-(4-amidinophenoxy)propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionic acid as colorless crystals.

reactant | diphenylmethyl 3-[4-[3-(4-tert-butoxycarbonylamidinophenoxy) propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate | 2.3 g | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(OCCCN2C(C(N(CC2)C(CC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=2C=NC=CC2)=O)=O)C=C1 | C40H43N5O7
reactant | anisole | 18.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 37 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[4-[3-(4-amidinophenoxy)propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionic acid | 0.82 g | C(N)(=N)C1=CC=C(OCCCN2C(C(N(CC2)C(CC(=O)O)C=2C=NC=CC2)=O)=O)C=C1 | C22H25N5O5
